US06320051B1
2-[3-(5,6-Dichloronicotinoylamino)prop-1-ylamino]-1H-quinolin-4-one
To compound 1b (36 mg, 0.166 mmol) in DMF (3 ml) was added 5,6-dichloronicotinic acid (35 mg, 0.183 mmol), 1-hydroxy-7-azabenzotriazole (25 mg, 0.183 mmol), and diethylaminomethyl-polystyrene (166 mg, 0.498 mmol). After 15 min 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (35 mg, 0.183 mmol) was added to the stirred mixture. The polystyrene was removed by filtration after 19 h and the solvent removed in vacuo. The resulting residue was purified by flash chromatography on silica gel eluting with EtOH:hexane (3:7) to give the title compound as a pink solid (28 mg, 58%); δH (CD3OD) 2.15 (2H, m), 3.57 (2H, t), 3.71 (2H, t), 5.81 (1H, s), 7.41 (1H, t), 7.56 (1H, d), 7.72 (1H, t), 8.22 (1H, d), 8.57 (1H, s), 8.95 (1H, s); MS (ES+) 391, 393 (100, 68% MH+).

reactant | 5,6-dichloronicotinic acid | 0.183 mmol, 35 mg | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 1-hydroxy-7-azabenzotriazole | 0.183 mmol, 25 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diethylaminomethyl-polystyrene | 0.498 mmol, 166 mg | CCN(CC)CC1=CC=CC=C1.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 0.183 mmol, 35 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[3-(5,6-Dichloronicotinoylamino)prop-1-ylamino]-1H-quinolin-4-one | 28 mg, 58% | ClC=1C(=NC=C(C(=O)NCCCNC=2NC3=CC=CC=C3C(C2)=O)C1)Cl | C18H16Cl2N4O2
